Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
hematemesis
 
Major Surgical or Invasive Procedure:
EGD

 
History of Present Illness:
Mr. ___ is a ___ man with history of suspected
metastatic lung cancer presenting with hematemesis.

In ___, the patient had a pneumonia and imaging at that time
demonstrated a cavitary lesion, however, he was subsequently 
lost
to follow up. In ___, he was admitted to ___ with 
fevers
and cough, and CT redemonstrated a cavitary lesion. He was ruled
out for tuberculosis. Blood and sputum cultures grew MSSA and he
was discharged on antibiotics. He report that since then he has
completed multiple courses of antibiotics. He has not yet had a
biopsy of the lesion.

The patient reports that beginning about three weeks ago he
developed severe mid-back pain. He denies any radiation of the
pain, no numbness, tingling, or weakness. He reports that he was
prescribed a 5-day course of prednisone at the end of ___, and
subsequently he has been taking ibuprofen 800 mg three times per
day alternating with Tylenol for his back pain.

He reports that on the afternoon of admission he was seated on
the toilet. He felt hot and nauseated, and had an episode of
hematemesis. He denies any bright red blood per rectum or black
stools. He denies any dizziness, lightheadedness, or syncope. No
chest pain, palpitations, shortness of breath. He has a chronic,
stable cough. 

He presented to ___. There, his initial systolic blood
pressures were in the ___. WBC 32, Hb 10.8. He was given 1L Ns,
magnesium, esomeprazole IV. He received 1 unit pRBCS. He was
transferred to ___ for EGD and for possible lung biopsy.

In the ED, vitals: 98.4 98 ___ 97% RA 
Exam notable for: Abd: Soft, NTND. 
Labs notable for: WBC 38, Hb 11.4; BUN 27, Cr 0.7
Imaging: None
Consults: GI
Patient given: pantoprazole 40 mg IV

On arrival to the floor, the patient reports ongoing severe back
pain. He also has nausea. On arrival to the floor, he had a 
dark,
tarry stool. He denies any other complaints at present.
 
ROS: Pertinent positives and negatives as noted in the HPI.  All
other systems were reviewed and are negative. 

 
Past Medical History:
- Presumed metastatic lung cancer
 
Social History:
___
Family History:
No known family history of malignancy.

 
Physical Exam:
Admission EXAM
VITALS: 98.3 ___ 16 94 RA
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
CV: Heart regular, no murmur
RESP: Lungs with diminished breath sounds bilaterall. Breathing
is non-labored
GI: Abdomen soft, non-distended, non-tender to palpation. Bowel
sounds present. 
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs; no spinal tenderness
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs, sensation to light touch grossly
intact throughout
PSYCH: Very pleasant, appropriate affect

Discharge Exam:
VITALS: Temp: 98.0 BP: 106/70 HR: 93 RR: 20 O2 97% RA 
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
CV: Heart regular, no murmur
RESP: Lungs with diminished breath sounds bilaterally. Breathing
is non-labored
GI: Abdomen soft, non-distended, non-tender to palpation. Bowel
sounds present. 
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs; no spinal tenderness
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs, sensation to light touch grossly
intact throughout
PSYCH: Very pleasant, appropriate affect
 
Pertinent Results:
Admission Labs:

___ 11:49PM BLOOD WBC-38.2* RBC-3.62* Hgb-11.4* Hct-34.5* 
MCV-95 MCH-31.5 MCHC-33.0 RDW-13.4 RDWSD-47.5* Plt ___
___ 11:50PM BLOOD ___ PTT-23.6* ___
___ 11:49PM BLOOD Glucose-80 UreaN-27* Creat-0.7 Na-140 
K-4.8 Cl-106 HCO3-22 AnGap-12
___ 11:49PM BLOOD ALT-13 AST-18 AlkPhos-137* TotBili-0.5
___ 11:49PM BLOOD Lipase-45
___ 11:49PM BLOOD Albumin-3.8 Calcium-8.5 Phos-2.8 Mg-2.0

Discharge Labs:

___ 06:31AM BLOOD WBC-25.2* RBC-3.27* Hgb-10.3* Hct-30.7* 
MCV-94 MCH-31.5 MCHC-33.6 RDW-13.2 RDWSD-45.4 Plt ___
___ 06:31AM BLOOD Plt ___
___ 06:31AM BLOOD Glucose-75 UreaN-10 Creat-0.6 Na-138 
K-4.5 Cl-98 HCO3-26 AnGap-14
___ 06:31AM BLOOD Calcium-9.3 Mg-1.8

Imaging:
EGD ___: Single cratered ___ ulcer found in lessre curvature 
with signs of recent bleeding s/p epinephrine and unsuccessful 
endoclip applied. Bi-Cap electrocautery was applied. Single 
cratered clean-based non-bleeding 5mm ulcer found in stomach 
body

CXR (___):
Impression:
1. Left hilar mass or adenopathy seen.
2. Area of consolidation with cavitation noted in the lateral
left upper lung. This is more discrete than on the prior study.

CT Chest (___):
IMPRESSION: 
1. LARGE PARTIALLY CAVITATED MASS LEFT UPPER LOBE INVADING THE
LEFT HILUM. THIS MAY BE SLIGHTLY WORSE.
2. MULTIPLE VERTEBRAL AND RIB OSTEOLYTIC LESIONS WHICH ALSO
APPEAR TO HAVE PROGRESSED.
3. EMPHYSEMATOUS CHANGES. NO FOCAL INFILTRATE SEEN.

CT Abdomen/pelvis (___):
IMPRESSION: 
1 THERE ARE MULTIPLE HEPATIC LESIONS AS WELL AS ADRENAL LESIONS
AND PANCREATIC LESION. FINDINGS ARE CONSISTENT WITH METASTATIC
PROCESS, POSSIBLY LUNG OR PANCREAS.
2. THERE ARE MULTIPLE OSTEOLYTIC LESIONS AS DETAILED ABOVE, ALSO
CONSISTENT WITH METASTATIC PROCESS.
3. NO ACUTE ABDOMINAL OR PELVIC PROCESS SEEN.

 
Brief Hospital Course:
Mr. ___ is a ___ man with history of suspected 
metastatic lung cancer presenting with hematemesis.

# Upper gastrointestinal bleed
# Acute blood loss anemia: Patient presented with an episode of 
hematemesis in setting of taking prednisone and ibuprofen for 
back pain secondary to lytic lesions as below suspect may have 
developed PUD. GI consulted and performed EGD ___ and found two 
ulcers largest was 10mm with stigmata of recent bleeding, though 
no active bleeding visualized. Hemostasis achieved with 
epinephrine, Bi-cap electrocautery. Endoclip was applied 
unsuccessfully. He was started on protonix 40mg BID which he was 
discharged on and should continue taking for at least ___ weeks. 
He had no further episodes of hematemesis and his H/H remained 
stable during admission. He had no abdominal pain and tolerated 
a regular diet without issues. Orthostatic vitals were negative 
on discharge. He remained stable and he requested to be 
discharged for further outpatient evaluation. Serum H.pylori was 
pending on discharged. He was advised to consider getting his 
stool tested for H.pylori to evaluate for active infection. He 
was advised to avoid future use of NSAIDs. 

# Suspected metastatic lung cancer: Patient with several 
presentations for recurrent pneumonia, found to have cavitary 
lung lesion. Most recent CT now demonstrates large cavitated 
mass in the left upper lobe, multiple osteolytic lesions in the 
vertebrae and ribs, lesions in adrenals, pancreas, and liver. 
Discussed with hem/onc and felt optimal biopsy site would be 
liver lesions if amenable following by bone for diagnosis and 
staging. Last would get biopsy of lung lesion for suspect lung
primary if lesions above were not amenable for biopsy. Discussed 
with patient who reported he did not want this evaluation done 
during this admission and reported and would follow up as an 
outpatient to complete work up. He was counseled that biopsy 
this admission would speed up his diagnosis so he could get a 
possible diagnosis and treatment plan arranged. He was advised 
that diagnosis and ultimately treatment
would likely be delayed if he waited which could affect his 
prognosis. He voiced understanding and still reported he wanted 
to be discharged and he would speak with his PCP ___ to help 
set up outpatient evaluation. He was discharged on Tylenol, 
Lidoderm patch, and flexeril to help with his pain. 

# Leukocytosis: Patient with leukocytosis of 38 on admission. 
Suspect secondary to malignancy as above. CT with cavitary mass 
but no clear evidence for new infectious process. No other 
localizing signs or symptoms of infection. Leukocytosis 
downtrended and on discharge was 25. He was not discharged on 
antibiotics.

# Insomnia: Continued home zolpidem

Transitional Issues:
[] f/u H.pylori serum serology and consider getting stool 
testing for H.pylori
[] consider repeat EGD in ___ weeks to monitor healing
[] arrange for biopsy of suspected metastatic lesions as noted 
above
[] consider repeat CBC in a week to see if H/H is stable and 
trend leukocytosis

Greater than 30 min spent on discharge planning

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Zolpidem Tartrate 10 mg PO QHS 

 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild/Fever  
2.  Cyclobenzaprine 5 mg PO TID:PRN Muscle spasm 
RX *cyclobenzaprine 5 mg 1 tablet by mouth three times a day 
Disp #*30 Tablet Refills:*0 
3.  Lidocaine 5% Patch 1 PTCH TD QAM 
RX *lidocaine [Aspercreme (lidocaine)] 4 % apply 1 patch to 
affected area once a day Disp #*30 Patch Refills:*0 
4.  Pantoprazole 40 mg PO Q12H 
RX *pantoprazole 40 mg 1 tablet(s) by mouth twice a day Disp 
#*60 Tablet Refills:*0 
5.  Zolpidem Tartrate 10 mg PO QHS  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Peptic ulcer disease
suspect metastatic lung cancer

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted with bloody vomit. You underwent a procedure 
called EGD which found you had two stomach ulcers likely causing 
your symptoms. These ulcers likely were caused by your recent 
use of pain medications (NSAIDS). Your blood levels remained 
stable and you reported feeling well. You were also found on 
imaging to have numerous lesions throughout your body concerning 
for underlying metastatic cancer. It was advised you get further 
evaluation with a biopsy of one of your lesions which you 
decided to pursue as an outpatient which you were aware could 
delay diagnosis and subsequent treatment. You were started on 
new medications noted below.

New Medications:
1) Protonix is a medication to help protect your stomach. Please 
take twice a day.
2) Flexeril is a medication to help with your back pain. Please 
take as prescribed as needed. Please avoid drinking and/or 
driving when taking this medication
3) Lidoderm patch is a medication to help with your pain. Please 
take as prescribed as needed
4) Tylenol is a medication to help with your pain. Please take 
as prescribed. Please do not take more than 4000mg (4gm) total 
in a day.

Please call your PCP tomorrow to scheduled an appointment and 
get biopsy of your lesions. Also consider getting repeat blood 
levels in a week and stool tested for H.Pylori

Best of luck in your recovery,
Your ___ care team
 
Followup Instructions:
___